US06130229
N-[(1,3-Benzodioxol-5-yl)methyl]-4-(8-chloro-5,11-dihydro[1]benzothiepino[4,3-b]pyridin-11-yl)-N'-cyano-1 -piperazine-carboximidamide
Methyl 4-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-yl)-N-cyano-1-piperazine-carboximidothioate (184 mg, 0.428 mmol) was combined with 1 ,3-benzodioxol-5-ylmethylamine [piperonylamine] (1.07 ml, 8.56 mmol) in a 10 ml flask, and the mixture was stirred at 100° C. for three hours. The reaction mixture was cooled to room temperature and diluted with water and CH2Cl2. The layers were shaken together and separated, and the aqueous extract was extracted several times with CH2Cl2. The combined organic layers were washed with brine, dried (MgSO4), filtered through `Celite` and concentrated. The residue (over 2 g) was first filtered through a plug of silica gel and eluted with 15%acetone/CH2Cl2), and then further chromatographed more carefully and eluted with 2%EtOH/CH2Cl2, increasing gradually to 40%EtOH/CH2Cl2, to afford the pure product, 155 mg (68%); MS (FAB, M+H)=533.6.

reactant | Methyl 4-(8-chloro-5,11-dihydro-[1]benzothiepino[4,3-b]pyridin-11-yl)-N-cyano-1-piperazine-carboximidothioate | 0.428 mmol, 184 mg | ClC1=CC2=C(C(C3=NC=CC=C3CS2)N2CCN(CC2)C(=NC#N)SC)C=C1 | C20H20ClN5S2
reactant | 1 ,3-benzodioxol-5-ylmethylamine | 8.56 mmol, 1.07 ml | O1COC2=C1C=CC(=C2)CN | C8H9NO2
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(1,3-Benzodioxol-5-yl)methyl]-4-(8-chloro-5,11-dihydro[1]benzothiepino[4,3-b]pyridin-11-yl)-N'-cyano-1 -piperazine-carboximidamide | O1COC2=C1C=CC(=C2)CNC(=NC#N)N2CCN(CC2)C2C1=C(SCC=3C2=NC=CC3)C=C(C=C1)Cl | C27H25ClN6O2S
